US06451810B1
Using the general method of Example 1, 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 1.76 mmol) was reacted with benzoyl chloride (0.25 g, 1.76 mmol) to provide N1-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide as a solid, m.p. 203-206° C. 1H NMR (500 MHz, DMSO-d6) δ8.48 (t, J=6.0 Hz, 1H), 8.00 (d, J=8.0 Hz, 1H), 7.79 (d, J=8.0 Hz, 2H), 7.60 (dd, J=8.0, 1.0 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 7.43 (t, J=8.0 Hz, 2H), 7.38 (t, J=8.0 Hz, 1H), 7.17 (t, J=8.0 Hz, 1H), 6.47 (broad s, 2H), 4.53 (t, J=7.0 Hz, 2H), 3.32 (q, J=6.0 Hz, 2H), 2.95 (q, J=7.0 Hz, 2H), 1.87 (quintet, J=7.0 Hz, 2H), 1.70 (quintet, J=7.0 Hz, 2H), 1.35 (t, J=7.0 Hz, 3H); MS (EI) m/e 387.2058 (387.2059 calcd for C23H25N5O).

reactant | 1-(4-aminobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.76 mmol, 0.5 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5
reactant | benzoyl chloride | 1.76 mmol, 0.25 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N1-[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(C2=CC=CC=C2)=O)CC | C23H25N5O
